US07772244B2
(R)-2-Hydroxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)propanoic acid
To a solution of (R)-methyl 2-acetoxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)propanoate (700 mg, 1.72 mmol) in tetrahydrofuran (6 mL) and methanol (6 mL) at 0° C. was added a solution of lithium hydroxide monohydrate (289 mg, 6.89 mmol) in water (6 mL). The reaction was stirred at 0° C. for 1 h. The reaction was concentrated, dissolved in 5 mL of water, cooled to 0° C., and treated with 1M hydrochloric acid until mildly acidic. A non-solid ppt formed. The suspension was extracted with ethyl acetate (2×), which were washed with brine, dried over magnesium sulfate, and concentrated to give 620 mg (quant.) which was pure by LC/MS and was used without purification. Mass spec.: 351.13 (MH)+.

reactant | (R)-methyl 2-acetoxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)propanoate | 1.72 mmol, 700 mg | C(C)(=O)O[C@@H](C(=O)OC)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C20H30N2O5Si
reactant | lithium hydroxide monohydrate | 6.89 mmol, 289 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
solvent | water | 6 mL | O | H2O
product | (R)-2-Hydroxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)propanoic acid | O[C@@H](C(=O)O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C17H26N2O4Si
